US04144047
Preparation of Ethyl β-Amino-p-Trifluoromethylcinnamate.
To the Grignard reagent prepared from 98 g (0.436 mol) of p-bromobenzotrifluoride and 10.59 g (0.436 mol) of magnesium in ether was added 24.65 g (0.218 mol) of ethyl cyanoacetate dropwise with stirring and cooling in an ice bath. The resultant mixture was stirred at reflux for 24 hours. The usual workup gave 49.4 g of dark red-brown residue; distillation of this material gave 16.73 g (30%) of product, boiling point 120°-123° (0.15 torr).

reactant | p-bromobenzotrifluoride | 0.436 mol, 98 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | magnesium | 0.436 mol, 10.59 g | [Mg] | Mg
reactant | ethyl cyanoacetate | 0.218 mol, 24.65 g | C(#N)CC(=O)OCC | C5H7NO2
solvent | ether | CCOCC | C4H10O
product | Ethyl β-Amino-p-Trifluoromethylcinnamate | 49.4 g | NC(=CC(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C12H12F3NO2
